US08609150B2
A solution having 1.9 g (8.0 mmol) of 2,3,4-trimethoxy-6-methylbenzoyl cyanide dissolved in 20 ml of tetrahydrofuran was cooled to −10° C., and 0.32 g (0.91 mmol) of iron(III) acetylacetonate were added, followed by stirring for 20 minutes. In another reactor, 4 ml of tetrahydrofuran was added to 4.1 ml (8.2 mmol) of an isopropylmagnesium chloride 2M tetrahydrofuran solution and the mixture was cooled to 0° C., and a solution having 1.0 g (4.2 mmol) of 3-bromo-5-chloro-2-methoxy-4-methylpyridine dissolved in 5 ml of tetrahydrofuran was dropwise added, followed by stirring for 3 hours to form 5-chloro-2-methoxy-4-methyl-3-pyridylmagnesium chloride. The pyridylmagnesium chloride solution thus prepared was dropwise added to the above prepared 2,3,4-trimethoxy-6-methylbenzoyl cyanide/iron mixed solution, followed by stirring for 3 hours. A 10% ammonium chloride aqueous solution was added to the reaction solution to terminate the reaction, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The crude product was purified by silica gel column chromatography to obtain 1.7 g (yield: 58%) of a desired product.

reactant | 2,3,4-trimethoxy-6-methylbenzoyl cyanide | 8.0 mmol, 1.9 g | COC1=C(C(=O)C#N)C(=CC(=C1OC)OC)C | C12H13NO4
reactant | isopropylmagnesium chloride | 8.2 mmol, 2M, 4.1 ml | C(C)(C)[Mg]Cl
reactant | 3-bromo-5-chloro-2-methoxy-4-methylpyridine | 4.2 mmol, 1.0 g | BrC=1C(=NC=C(C1C)Cl)OC | C7H7BrClNO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | iron(III) acetylacetonate | 0.91 mmol, 0.32 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 5-chloro-2-methoxy-4-methyl-3-pyridylmagnesium chloride | ClC=1C(=C(C(=NC1)OC)[Mg]Cl)C | InChI=1S/C7H7ClNO.ClH.Mg/c1-5-3-7(10-2)9-4-6(5)8;;/h4H,1-2H3;1H;/q;;+1/p-1
